US07214802B2
N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-(4-pyridin-4-yl-[1,2,3]triazol-1-yl)-benzamide
Example 17 was prepared from 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide and 4-ethynyl pyridine hydrochloride (Aldrich) in the same manner as Example 15. ESI MS m/z 535 [C27H30N6O4S+H]+.

reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
reactant | 4-ethynyl pyridine hydrochloride | Cl.C(#C)C1=CC=NC=C1
product | N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-(4-pyridin-4-yl-[1,2,3]triazol-1-yl)-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C1=CC=NC=C1)=O)OC)NS(=O)(=O)C | C27H30N6O4S
